US05061794
Preparation of sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxviminoacetamido]-3-[5-(3, 4-dihydroxyphenyl)-1,3,4-thiadiazol-2-yl]thiomethyl-3-cephem-4-carboxylate (syn-isomer)
A trifluoroacetate obtained by the same operation as in EXAMPLE 1 by using 1.0 g (1.07 mmol) of benzhydryl 3-iodomethyl-7β-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate (syn-isomer) and 0.43 g (1.07 mmol) of 2-mercapto-5-[3,4-di(2-methoxyethoxymethoxy)phenyl]-1,3,4-thiadiazole, was suspended in water and adjusted to pH6.5 with a saturated sodium hydrogencarbonate aqueous solution. Then, the suspension was subjected to ODS column chromatography (LC Sorb RP-18, manufactured by Kemco Co.) and eluted with a 20% methanol aqueous solution. The fraction containing the desired compound was concentrated and freeze-dried to obtain 168 mg (yield: 24.3%) of the above identified compound.

reactant | benzhydryl 3-iodomethyl-7β-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl) acetamido]-3-cephem-4-carboxylate | 1.07 mmol, 1.0 g | ICC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC)=O)=O | C46H38IN5O5S2
reactant | 2-mercapto-5-[3,4-di(2-methoxyethoxymethoxy)phenyl]-1,3,4-thiadiazole | 1.07 mmol, 0.43 g | SC=1SC(=NN1)C1=CC(=C(C=C1)OCOCCOC)OCOCCOC | C16H22N2O6S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | Sorb | OC[C@@]1(O)[C@@H](O)[C@H](O)[C@@H](O)CO1 | C6H12O6
solvent | water | O | H2O
product | sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxviminoacetamido]-3-[5-(3, 4-dihydroxyphenyl)-1,3,4-thiadiazol-2-yl]thiomethyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C2=CC(=C(C=C2)O)O)C(=O)[O-])C1=O)=NOC.[Na+] | InChI=1S/C22H19N7O7S4.Na/c1-36-28-13(10-7-38-21(23)24-10)16(32)25-14-18(33)29-15(20(34)35)9(5-37-19(14)29)6-39-22-27-26-17(40-22)8-2-3-11(30)12(31)4-8;/h2-4,7,14,19,30-31H,5-6H2,1H3,(H2,23,24)(H,25,32)(H,34,35);/q;+1/p-1/t14-,19-;/m1./s1
